US04803280
2-[2-(4-Methylphenyl)-1-thioxoethyl]hydrazinecarboxylic acid, methyl ester
A mixture of 37.0 g of 2-[2-(4-methylphenyl)-1-thioxoethyl]thioglycolic acid, 18.2 g of methyl hydrazinocarboxylate and 250 ml of dichloromethane was heated at reflux for one hour and then evaporated in vacuo. The residue was concentrated at high vacuum and 45° C. for one hour. The oily residue was chromatographed on a 75×800mm dry column of silica gel, eluting with dichloromethane. The desired fractions were pooled and the solid crystallized from toluene-hexane, giving 30 g of the desired compound as off-white needles, mp 104.5°-105° C. Proton nuclear magnetic resonance (δ[ppm], CDCl3) 90 MHz: 2.38 (s, CH3); 3.79 (s, 3H, OCH3); 4.07 (s, 2H, CH2CS); 7.23 (s, 4H, C6H4); 8.68 (bs, 1H, NH); 9.52 (bs, 1H, NH).

reactant | 2-[2-(4-methylphenyl)-1-thioxoethyl]thioglycolic acid | 37.0 g | CC1=CC=C(C=C1)CC(=S)C(C(=O)O)S | C11H12O2S2
reactant | methyl hydrazinocarboxylate | 18.2 g | N(N)C(=O)OC | C2H6N2O2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 2-[2-(4-Methylphenyl)-1-thioxoethyl]hydrazinecarboxylic acid, methyl ester | 30 g | CC1=CC=C(C=C1)CC(=S)NNC(=O)OC | C11H14N2O2S
